US07294644B2
Preparation of 1-cyclohexylmethyl-5-(2,5-dimethoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid
To a solution of 2.3 g of 1-cyclohexylmethyl-5-(2,5-dimethoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid methyl ester in dioxane (50 ml) and water (50 ml) was added 18.8 ml of a 1N solution of sodium hydroxide. The reaction mixture was heated at reflux for 16 hours. After such time the reaction mixture was allowed to cool down to room temperature before being neutralized with 18.8 ml of a 1N solution of hydrochloride acid. Dioxane was distilled off and the precipitate was then filtered and washed with water to give 2.1 g of the title compound; MS (ISP) 356.3 (M-H).

reactant | 1-cyclohexylmethyl-5-(2,5-dimethoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid methyl ester | 2.3 g | COC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)OC)OC)CC1CCCCC1)C | C22H29NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 1-cyclohexylmethyl-5-(2,5-dimethoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid | 2.1 g | C1(CCCCC1)CN1C(=C(C=C1C1=C(C=CC(=C1)OC)OC)C(=O)O)C | C21H27NO4
